US05030629
Preparation of 4,4-Dimethyl-2-undecyl-2-imidazoline
18.31 g (100 mmoles) of undecyl cyanide, 11 g (125 mmoles) of 1,2-diamino-2-methylpropane and 0.5 ml of carbon disulfide were heated at 125° C. for 24 hrs. and then worked up as under Example 23. Distillation at reduced pressure gave 19.66 g (78%) of the product.

reactant | undecyl cyanide | 100 mmoles, 18.31 g | C(CCCCCCCCCC)C#N | C12H23N
reactant | 1,2-diamino-2-methylpropane | 125 mmoles, 11 g | NCC(C)(C)N | C4H12N2
solvent | carbon disulfide | 0.5 ml | C(=S)=S | CS2
product | 4,4-Dimethyl-2-undecyl-2-imidazoline | 19.66 g, 78% | CC1(N=C(NC1)CCCCCCCCCCC)C | C16H32N2
